US07468375B2
To a solution of 1-(4-fluorobenzyl)-3-(methoxymethyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid 332 mg 0.9467 mmol) in anhydrous DMF (8.0 mL) was added CDMT (200 mg 1.136 mmol 1.2 eq.) and NMM (N-methyl morpholine) (0.13 mL 1.136 mmol 1.2 eq.). The mixture, under nitrogen, was stirred for 2.0 hours, during which it slowly darkened to a deep orange. N-Methylhydroxylamine hydrochloride (395 mg 4.734 mmol 5.0 eq) was added and stirring continued for 10 hours. The reaction was judged to be complete by HPLC-MS analysis and the volatiles were removed in vacuo (ca. 2 torr) to give a golden yellow oil. This oil was dissolved in EtOAc (30 mL) and washed with water (3×20 mL) and brine (20 mL). The organic phase was separated, dried (Na2SO4), and concentrated in vacuo to afford the crude product which was purified by recrystallisation in hot IPA (20 ml) with cooling at 4° C. overnight to give 194 mg (60%) of 1-(4-fluorobenzyl)-N-hydroxy-3-(methoxymethyl)-N-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide as a white solid. LC-MS (Eclipse XDB-C8, 0.8 mL/min, gradient 80:20 to 5:95H2O (+0.1% HOAc):CH3CN—3 minutes, APCI, +mode): RT—1.028 min, m/e=344.2 (M+H+, base). 1H-NMR (300 MHz, DMSO): δ =3.26 (s, 3H), 3.34 (s, 3H), 4.57 (s, 2H), 5.54 (s, 2H), 7.14 (t, 2H), 7.36 (m, 2H), 7.87 (s, 1H), 8.02 (s, 1H), 8.92 (s, 1H). Found: C, 62.72; H, 5.20; N, 12.17%. C18H18FN3O3, requires C, 62.97; H, 5.28; N, 12.24%.

reactant | 1-(4-fluorobenzyl)-3-(methoxymethyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | 0.9467 mmol, 332 mg | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)O)COC)C=C1 | C17H15FN2O3
reactant | NMM | 1.136 mmol, 0.13 mL, 1.2 eq. | CN1CCOCC1 | C5H11NO
reactant | N-Methylhydroxylamine hydrochloride | 4.734 mmol, 395 mg, 5.0 eq | Cl.CNO
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 1-(4-fluorobenzyl)-N-hydroxy-3-(methoxymethyl)-N-methyl-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | 194 mg, 60% | FC1=CC=C(CN2C=C(C=3C2=CN=C(C3)C(=O)N(C)O)COC)C=C1 | C18H18FN3O3
